US05106871
Then, 1.30 g of 1-[2-methoxycarbonylmethoxy-4,6-bis(methoxymethoxy)-3-isopentylphenyl]-3-(4-methoxymethoxyphenyl)-1-propanone was dissolved in 3 ml of methanol, and 10 ml of a hydrochloric acid/methanol reagent was added to the solution and the mixture was heated and refluxed for 40 minutes. The temperature of the reaction mixture was lowered to room temperature and the reaction mixture was neutralized with a saturated aqueous solution of sodium hydrogencarbonate and extracted with 500 ml of ethyl acetate. The ethyl acetate layer was washed with water, shaken with a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and filtered. The solvent was removed from the filtrate by distillation. The obtained residue was recrystallized from chloroform to obtain 918 mg (yield=93.0%) of 1-(4,6-dihydroxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(4-hydroxyphenyl)-1-propanone in the form of a colorless prism.

reactant | 1-[2-methoxycarbonylmethoxy-4,6-bis(methoxymethoxy)-3-isopentylphenyl]-3-(4-methoxymethoxyphenyl)-1-propanone | 1.30 g | COC(=O)COC1=C(C(=CC(=C1CCC(C)C)OCOC)OCOC)C(CCC1=CC=C(C=C1)OCOC)=O | C29H40O10
reactant | hydrochloric acid methanol | 10 ml | Cl.CO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 1-(4,6-dihydroxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(4-hydroxyphenyl)-1-propanone | 918 mg, yield=93.0% | OC1=C(C(=C(C(=C1)O)C(CCC1=CC=C(C=C1)O)=O)OCC(=O)OC)CCC(C)C | C23H28O7
